US07910561B2
4-(8-Oxo-3-phenyl-7,8-dihydro-1,7-naphthyridin-2-yl)benzaldehyde (5-5)
To a solution of 2-[4-(hydroxymethyl)phenyl]-3-phenyl-1,7-naphthyridin-8(7H)-one (46 mg, 0.14 mmol) in chloroform (4 mL) and acetonitrile (4 mL) was added activated manganese dioxide (200 mg, 2.2 mmol). This suspension was warmed at 60° C. for three hours. The warm suspension was filtered, rinsed with chloroform and the solvents removed in vacuo to give the title compound. 1H-NMR (500 MHz, CDCl3): δ 12.68 (1H, s), 10.00 (1H, br s), 7.99 (1H, s), 7.82 (2H, d, J=8.3 Hz), 7.77 (2H, d, J=8.3 Hz), 7.40 (1H, d, J=6.9 Hz), 7.31-7.37 (3H, m), 7.20-7.24 (2H, m), 6.61 (1H, d, J=7.1 Hz). m/e (m+1): 327.2.

reactant | 2-[4-(hydroxymethyl)phenyl]-3-phenyl-1,7-naphthyridin-8(7H)-one | 0.14 mmol, 46 mg | OCC1=CC=C(C=C1)C1=NC=2C(NC=CC2C=C1C1=CC=CC=C1)=O | C21H16N2O2
solvent | chloroform | 4 mL | C(Cl)(Cl)Cl | CHCl3
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
catalyst | manganese dioxide | 2.2 mmol, 200 mg | [O-2].[O-2].[Mn+4]
product | 4-(8-Oxo-3-phenyl-7,8-dihydro-1,7-naphthyridin-2-yl)benzaldehyde | O=C1NC=CC=2C=C(C(=NC12)C1=CC=C(C=O)C=C1)C1=CC=CC=C1 | C21H14N2O2
